** Name: SymmetricalOpAmp13

.MACRO SymmetricalOpAmp13 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=5e-6 W=9e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=5e-6 W=9e-6
mDiodeTransistorPmos4 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=8e-6 W=89e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos6 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=2e-6 W=9e-6
mNormalTransistorNmos7 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=9e-6
mNormalTransistorNmos8 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=5e-6 W=26e-6
mNormalTransistorNmos9 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=5e-6 W=26e-6
mNormalTransistorPmos10 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=1e-6 W=45e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=37e-6
mNormalTransistorPmos12 innerComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=8e-6 W=89e-6
mNormalTransistorPmos13 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage pmos4 L=2e-6 W=86e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=37e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp13

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 0.620001 mW
** Area: 2210 (mu_m)^2
** Transit frequency: 4.60101 MHz
** Transit frequency with error factor: 4.60073 MHz
** Slew rate: 4.32539 V/mu_s
** Phase margin: 71.6198°
** CMRR: 149 dB
** negPSRR: 54 dB
** posPSRR: 77 dB
** VoutMax: 3.94001 V
** VoutMin: 0.460001 V
** VcmMax: 4.05001 V
** VcmMin: 0.0600001 V


** Expected Currents: 
** NormalTransistorPmos: -45.4299 muA
** DiodeTransistorNmos: 7.60301 muA
** DiodeTransistorNmos: 7.60301 muA
** NormalTransistorPmos: -15.2079 muA
** NormalTransistorPmos: -7.60399 muA
** NormalTransistorPmos: -7.60399 muA
** NormalTransistorNmos: 21.6721 muA
** NormalTransistorNmos: 21.6731 muA
** NormalTransistorPmos: -21.6729 muA
** DiodeTransistorPmos: -21.6739 muA
** NormalTransistorPmos: -21.6729 muA
** NormalTransistorNmos: 21.6721 muA
** NormalTransistorNmos: 21.6731 muA
** DiodeTransistorNmos: 45.4291 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.866001  V
** inSourceTransconductanceComplementarySecondStage: 0.628001  V
** inStageBiasComplementarySecondStage: 4.10501  V
** innerComplementarySecondStage: 3.37301  V
** out: 2.5  V
** outFirstStage: 0.628001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.21501  V
** innerTransconductance: 0.223001  V
** inner: 0.223001  V


.END