** Name: SymmetricalOpAmp16

.MACRO SymmetricalOpAmp16 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=8e-6 W=31e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=28e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=38e-6
mDiodeTransistorPmos4 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=29e-6
mDiodeTransistorPmos5 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=29e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=308e-6
mNormalTransistorNmos7 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=50e-6
mNormalTransistorNmos8 out inputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=5e-6 W=41e-6
mNormalTransistorNmos9 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=50e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=8e-6 W=288e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=8e-6 W=148e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=38e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=317e-6
mNormalTransistorPmos14 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=37e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=37e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp16

** Expected Performance Values: 
** Gain: 51 dB
** Power consumption: 1.51901 mW
** Area: 8394 (mu_m)^2
** Transit frequency: 5.21701 MHz
** Transit frequency with error factor: 5.2172 MHz
** Slew rate: 6.04984 V/mu_s
** Phase margin: 80.2142°
** CMRR: 103 dB
** negPSRR: 98 dB
** posPSRR: 52 dB
** VoutMax: 4.79001 V
** VoutMin: 0.440001 V
** VcmMax: 4.63001 V
** VcmMin: 0.760001 V


** Expected Currents: 
** NormalTransistorNmos: 91.3501 muA
** NormalTransistorPmos: -94.8199 muA
** DiodeTransistorPmos: -23.4729 muA
** DiodeTransistorPmos: -23.4729 muA
** NormalTransistorNmos: 46.9441 muA
** NormalTransistorNmos: 23.4721 muA
** NormalTransistorNmos: 23.4721 muA
** NormalTransistorNmos: 30.2991 muA
** NormalTransistorNmos: 30.2981 muA
** NormalTransistorPmos: -30.2999 muA
** DiodeTransistorNmos: 30.2991 muA
** NormalTransistorPmos: -30.2999 muA
** DiodeTransistorNmos: 94.8191 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -91.3509 muA


** Expected Voltages: 
** ibias: 0.579001  V
** in1: 2.5  V
** in2: 2.5  V
** inTransconductanceComplementarySecondStage: 4.22301  V
** innerComplementarySecondStage: 0.642001  V
** inputVoltageBiasXXnXX1: 0.850001  V
** out: 2.5  V
** outFirstStage: 4.22301  V
** outVoltageBiasXXpXX0: 4.14701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.91201  V
** innerStageBias: 0.237001  V


.END