** Name: SymmetricalOpAmp183

.MACRO SymmetricalOpAmp183 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorNmos2 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=13e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=26e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=19e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=7e-6
mNormalTransistorNmos6 out innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mNormalTransistorNmos7 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=7e-6
mNormalTransistorNmos8 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=253e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=39e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=5e-6 W=39e-6
mNormalTransistorPmos11 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=2e-6 W=112e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=2e-6 W=36e-6
mNormalTransistorPmos13 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=2e-6 W=112e-6
mNormalTransistorPmos14 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=2e-6 W=36e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=6e-6 W=7e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=6e-6 W=7e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=6e-6 W=21e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=6e-6 W=21e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp183

** Expected Performance Values: 
** Gain: 54 dB
** Power consumption: 0.833001 mW
** Area: 2866 (mu_m)^2
** Transit frequency: 4.46801 MHz
** Transit frequency with error factor: 4.46807 MHz
** Slew rate: 4.50661 V/mu_s
** Phase margin: 72.7657°
** CMRR: 97 dB
** negPSRR: 105 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.150001 V
** VcmMax: 4.81001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 96.4561 muA
** NormalTransistorPmos: -7.42899 muA
** NormalTransistorPmos: -7.42999 muA
** NormalTransistorPmos: -7.42899 muA
** NormalTransistorPmos: -7.42999 muA
** NormalTransistorNmos: 14.8571 muA
** NormalTransistorNmos: 14.8571 muA
** NormalTransistorNmos: 7.42801 muA
** NormalTransistorNmos: 7.42801 muA
** NormalTransistorNmos: 22.5921 muA
** NormalTransistorPmos: -22.5929 muA
** NormalTransistorPmos: -22.5919 muA
** DiodeTransistorNmos: 22.5921 muA
** NormalTransistorPmos: -22.5929 muA
** NormalTransistorPmos: -22.5919 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -96.4569 muA


** Expected Voltages: 
** ibias: 1.17301  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 3.83801  V
** innerComplementarySecondStage: 0.560001  V
** out: 2.5  V
** out1FirstStage: 3.83801  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.618001  V
** innerTransistorStack1Load1: 4.40201  V
** innerTransistorStack2Load1: 4.40201  V
** sourceTransconductance: 1.93601  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V


.END