** Name: SymmetricalOpAmp27

.MACRO SymmetricalOpAmp27 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=16e-6
mDiodeTransistorNmos2 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=139e-6
mDiodeTransistorPmos3 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos4 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=312e-6
mDiodeTransistorPmos5 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=312e-6
mNormalTransistorNmos6 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=4e-6 W=134e-6
mNormalTransistorNmos7 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=12e-6
mNormalTransistorNmos8 innerComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=139e-6
mNormalTransistorNmos9 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage nmos4 L=1e-6 W=108e-6
mNormalTransistorNmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=12e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=600e-6
mNormalTransistorPmos12 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=274e-6
mNormalTransistorPmos13 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=274e-6
mNormalTransistorPmos14 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=473e-6
mNormalTransistorPmos15 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=473e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp27

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 5.20301 mW
** Area: 5538 (mu_m)^2
** Transit frequency: 20.8881 MHz
** Transit frequency with error factor: 20.8884 MHz
** Slew rate: 57.3367 V/mu_s
** Phase margin: 71.6198°
** CMRR: 143 dB
** negPSRR: 56 dB
** posPSRR: 42 dB
** VoutMax: 4.57001 V
** VoutMin: 0.740001 V
** VcmMax: 4.66001 V
** VcmMin: 1.01001 V


** Expected Currents: 
** NormalTransistorNmos: 83.0881 muA
** DiodeTransistorPmos: -187.519 muA
** DiodeTransistorPmos: -187.519 muA
** NormalTransistorNmos: 375.038 muA
** NormalTransistorNmos: 187.52 muA
** NormalTransistorNmos: 187.52 muA
** NormalTransistorNmos: 289.057 muA
** DiodeTransistorNmos: 289.056 muA
** NormalTransistorPmos: -289.056 muA
** NormalTransistorPmos: -289.057 muA
** NormalTransistorNmos: 283.512 muA
** NormalTransistorPmos: -283.511 muA
** NormalTransistorPmos: -283.512 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -83.0889 muA


** Expected Voltages: 
** ibias: 0.576001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.75101  V
** inSourceTransconductanceComplementarySecondStage: 4.25201  V
** inStageBiasComplementarySecondStage: 0.561001  V
** innerComplementarySecondStage: 1.14301  V
** out: 2.5  V
** outFirstStage: 4.25201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.66401  V
** innerTransconductance: 4.55701  V
** inner: 4.55501  V


.END