** Name: SymmetricalOpAmp3

.MACRO SymmetricalOpAmp3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=7e-6
mDiodeTransistorPmos4 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=45e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=10e-6 W=235e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos7 inStageBiasComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=15e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=15e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=7e-6 W=84e-6
mNormalTransistorPmos10 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=32e-6
mNormalTransistorPmos11 out outVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=2e-6 W=8e-6
mNormalTransistorPmos12 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=32e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=10e-6 W=49e-6
mNormalTransistorPmos14 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=10e-6 W=305e-6
mNormalTransistorPmos15 SecondStageYinnerStageBias inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=45e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp3

** Expected Performance Values: 
** Gain: 55 dB
** Power consumption: 0.502001 mW
** Area: 6941 (mu_m)^2
** Transit frequency: 4.13601 MHz
** Transit frequency with error factor: 4.13555 MHz
** Slew rate: 4.00006 V/mu_s
** Phase margin: 83.0789°
** CMRR: 107 dB
** negPSRR: 55 dB
** posPSRR: 95 dB
** VoutMax: 4.25 V
** VoutMin: 0.180001 V
** VcmMax: 4.13001 V
** VcmMin: 0.0200001 V


** Expected Currents: 
** NormalTransistorNmos: 25.3821 muA
** NormalTransistorPmos: -2.12399 muA
** DiodeTransistorNmos: 6.56501 muA
** DiodeTransistorNmos: 6.56501 muA
** NormalTransistorPmos: -13.1329 muA
** NormalTransistorPmos: -6.56599 muA
** NormalTransistorPmos: -6.56599 muA
** NormalTransistorNmos: 20.0091 muA
** NormalTransistorPmos: -20.0099 muA
** NormalTransistorPmos: -20.0109 muA
** DiodeTransistorPmos: -19.6949 muA
** NormalTransistorNmos: 19.6941 muA
** DiodeTransistorNmos: 2.12301 muA
** DiodeTransistorPmos: -25.3829 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.28101  V
** in1: 2.5  V
** in2: 2.5  V
** inStageBiasComplementarySecondStage: 4.21401  V
** inTransconductanceComplementarySecondStage: 0.582001  V
** out: 2.5  V
** outFirstStage: 0.582001  V
** outVoltageBiasXXnXX0: 0.563001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.21501  V
** innerStageBias: 4.77701  V


.END