** Name: SymmetricalOpAmp70

.MACRO SymmetricalOpAmp70 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=13e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=24e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=6e-6 W=24e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=26e-6
mDiodeTransistorPmos5 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=8e-6
mDiodeTransistorPmos6 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=4e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=4e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=104e-6
mNormalTransistorNmos9 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=22e-6
mNormalTransistorNmos10 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=6e-6 W=24e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=22e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=44e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=5e-6 W=34e-6
mNormalTransistorNmos14 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=24e-6
mNormalTransistorPmos15 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=2e-6 W=116e-6
mNormalTransistorPmos16 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=2e-6 W=116e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=11e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=11e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp70

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 0.569001 mW
** Area: 2471 (mu_m)^2
** Transit frequency: 4.87601 MHz
** Transit frequency with error factor: 4.8758 MHz
** Slew rate: 4.68768 V/mu_s
** Phase margin: 72.1927°
** CMRR: 142 dB
** negPSRR: 57 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.930001 V
** VcmMax: 4.25 V
** VcmMin: 1.28001 V


** Expected Currents: 
** NormalTransistorNmos: 40.0161 muA
** DiodeTransistorPmos: -8.38199 muA
** DiodeTransistorPmos: -8.38199 muA
** NormalTransistorNmos: 16.7611 muA
** NormalTransistorNmos: 16.7611 muA
** NormalTransistorNmos: 8.38101 muA
** NormalTransistorNmos: 8.38101 muA
** NormalTransistorNmos: 23.5101 muA
** DiodeTransistorNmos: 23.5091 muA
** NormalTransistorPmos: -23.5109 muA
** NormalTransistorPmos: -23.5099 muA
** DiodeTransistorNmos: 23.5101 muA
** NormalTransistorNmos: 23.5091 muA
** NormalTransistorPmos: -23.5109 muA
** NormalTransistorPmos: -23.5099 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -40.0169 muA


** Expected Voltages: 
** ibias: 1.17301  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceStageBiasComplementarySecondStage: 0.668001  V
** inSourceTransconductanceComplementarySecondStage: 3.84001  V
** innerComplementarySecondStage: 1.33601  V
** out: 2.5  V
** outFirstStage: 3.84001  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.597001  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.40001  V
** inner: 0.667001  V
** inner: 4.40001  V


.END